US07838674B2
11.d: 3-tert-Butoxycarbonylamino-3-hydroxymethyl-azetidine-1-carboxylic acid tert-butyl ester
3-tert-Butoxycarbonylamino-azetidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (520 mg; 1.5 mmol) in THF (15 ml) is refluxed with LiBH4 (67 mg; 3 mmol) for 20 minutes. The reaction mixture is diluted with water, acidified with 2N HCl to destroy excess of LiBH4, neutralized again with 2N Na2CO3 and extracted with TBME three times. The organic phases are combined, dried over Na2SO4 and evaporated to dryness, yielding the desired product as colorless crystals. 1H-NMR (400 MHz; DMSO-d6: 7.27 (bs, 1H); 5.07 (bt, 1H); 3.78 (bs, 4H); 3.46 (d, 2H); 1.40 (s, 9H); 1.38 (s, 9H). MS (m/z) ES+: 303 (MH+).

reactant | 3-tert-Butoxycarbonylamino-azetidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 1.5 mmol, 520 mg | C(C)OC(=O)C1(CN(C1)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C16H28N2O6
reactant | LiBH4 | 3 mmol, 67 mg | [Li+].[BH4-]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-tert-Butoxycarbonylamino-3-hydroxymethyl-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)(CO)NC(=O)OC(C)(C)C | C14H26N2O5
